US07345180B2
(R)-1-(2-Chloroacetyl)pyrrolidine-2-carbonitrile
In a similar procedure as employed in the Intermediate Example 1, D-proline amide (3.2 g) was reacted with chloroacetyl chloride (2.5 ml) and then subjected to dehydration reaction to give the title compound (3.2 g, Y.:66%).

reactant | D-proline amide | 3.2 g | N1[C@@H](C(=O)N)CCC1 | C5H10N2O
reactant | chloroacetyl chloride | 2.5 ml | ClCC(=O)Cl | C2H2Cl2O
product | (R)-1-(2-Chloroacetyl)pyrrolidine-2-carbonitrile | 3.2 g, 66% | ClCC(=O)N1[C@H](CCC1)C#N | C7H9ClN2O
